US07132425B2
A suspension of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-pyrazin-2-yl]-propionamide (150 mg, 0.28 mmol), 2,6-dimethyl-1,4-dihydro-pyridine-3,5-dicarboxylic acid diethyl ester (92.5 mg, 0.37 mmol), and silica gel (450 mg) in anhydrous toluene (12 mL) was heated at 90° C. for 12 h. The reaction mixture was then allowed to cool to 25° C. and then was acidified to pH=2 with acetic acid. The silica gel was removed by filtration and washed with a small amount of methanol. The product was then extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 1/9 to 7/3 ethyl acetate/hexanes) afforded the 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2,4-dioxo-thiazolidin-5-ylmethyl)-pyrazin-2-yl]-propionamide (86.5 mg, 57%) as a white solid: LC-MS m/e 537 (MH+).

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-pyrazin-2-yl]-propionamide | 0.28 mmol, 150 mg | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=C(N=C1)C=C1C(NC(S1)=O)=O)CC1CCCC1 | C23H23ClN4O5S2
reactant | 2,6-dimethyl-1,4-dihydro-pyridine-3,5-dicarboxylic acid diethyl ester | 0.37 mmol, 92.5 mg | C(C)OC(=O)C1=C(NC(=C(C1)C(=O)OCC)C)C | C13H19NO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2,4-dioxo-thiazolidin-5-ylmethyl)-pyrazin-2-yl]-propionamide | 86.5 mg, 57% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=C(N=C1)CC1C(NC(S1)=O)=O)CC1CCCC1 | C23H25ClN4O5S2
